US09376442B2
N-[(1R*,2R*,4R*)-4-(Acetylamino)-2-fluorocyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-[(1R*,2R*,4R*)-4-amino-2-fluorocyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide (example D.f71) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | N-[(1R*,2R*,4R*)-4-amino-2-fluorocyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | N[C@H]1C[C@H]([C@@H](C1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)F | C24H26F3N5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[(1R*,2R*,4R*)-4-(Acetylamino)-2-fluorocyclopentyl]-4-[2-(cyclopropylmethoxy)-5-(difluoromethyl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N[C@H]1C[C@H]([C@@H](C1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC(=C2)C(F)F)OCC2CC2)C)F | C26H28F3N5O3
